US05051413
E-2-isopropylamino-4-methyl-5-phosphono-3-pentenoic acid ethyl ester
6.64 g of sodium acetate (anhydrous) and 18 ml of acetone are added to a solution of 6.40 g of E-2-amino-4-methyl-5-phosphono-3-pentenoic acid ethyl ester in 54 ml of water and 18 ml of glacial acetic acid. 17.67 g ofsodium borohydride are added in approximately 70 portions within a period of 90 minutes with intensive cooling with ice/sodium chloride, 18 ml of acetone being added after 20 minutes and after 50 minutes. When the addition is complete, the thick white suspension is stirred at 0° for 30 minutes to complete the reaction, and then 1N hydrochloric acid is added dropwise until an acidic reaction to Congo red takes place. The resulting clear solution is concentrated by evaporation in vacuo, and the residue is concentrated by evaporation twice more after the addition of ethanol. The residue is then stirred with 200 ml of ethanol at room temperature, and the undissolved material is filtered off and washed with ethanol. The filtrate is concentrated by evaporation in vacuo, and the residue is recrystallised from isopropanol.

reactant | sodium acetate | 6.64 g | C(C)(=O)[O-].[Na+]
reactant | E-2-amino-4-methyl-5-phosphono-3-pentenoic acid ethyl ester | 6.40 g | C(C)OC(C(\C=C(\CP(=O)(O)O)/C)N)=O | C8H16NO5P
reactant | borohydride | [BH4-]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
solvent | water | 54 ml | O | H2O
solvent | acetone | 18 ml | CC(=O)C | C3H6O
solvent | acetone | 18 ml | CC(=O)C | C3H6O
product | E-2-isopropylamino-4-methyl-5-phosphono-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C(\CP(=O)(O)O)/C)NC(C)C)=O | C11H22NO5P
